US04920116
4-(1,1-Dimethylethyl)-N-[3-(morpholin-4-yl)propyl]benzenamine
In a manner similar to Preparation 2 reaction N-[4-(1,1-dimethylethyl)phenyl]-4-morpholinepropanamide with lithium aluminum hydride to obtain the title compound.

reactant | N-[4-(1,1-dimethylethyl)phenyl]-4-morpholinepropanamide | CC(C)(C)C1=CC=C(C=C1)NC(CCN1CCOCC1)=O | C17H26N2O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-(1,1-Dimethylethyl)-N-[3-(morpholin-4-yl)propyl]benzenamine | CC(C)(C)C1=CC=C(C=C1)NCCCN1CCOCC1 | C17H28N2O
